US07696229B2
6. Synthesis of 8-bromo-2-methyl-1,2,3,4-tetrahydroisoquinoline
Into a 50 mL 3-necked round bottom flask (named A), was placed 2-methyl-1,2,3,4-tetrahydroisoquinolin-8-amine (500 mg, 3.08 mmol). This was followed by the addition of a solution of HBr (5 mL) in H2O (5 mL), which was added dropwise with stirring, while cooling to a temperature of 0° C. To the above was added NaNO2 (230 mg, 3.33 mmol) in several batches, while cooling to a temperature of 0° C. and the mixture was stirred for 30 mins at that temperature. Then into another 50 mL 3-necked round bottom flask (named B), was purged and maintained with an inert atmosphere of nitrogen, was placed a solution of CuBr (550 mg, 3.83 mmol) in HBr/H2O (3 mol/L) (10 mL), while cooling to a temperature of 0° C. The mixture was stirred for 10 minutes. Then was followed by the addition of the reaction solution of flask A with dropwise while the temperature was maintained at 0° C. The resulting solution was allowed to react, with stirring, for 30 minutes while the temperature was maintained at 0° C. The resulting solution was allowed to react, with stirring, for an additional 2 hours at room temperature. The reaction progress was monitored by TLC(ethyl acetate:petroleum ether=1:1). Adjustment of the pH to 9 was accomplished by the addition of NaOH (10%). The resulting solution was extracted three times with 50 mL of CH2Cl2 and the organic layers combined and dried over K2CO3. A filtration was performed. The filtrate was concentrated by evaporation under vacuum using a rotary evaporator. The residue was purified by eluting through a column with a 1:1 ethyl acetate; petroleum ether solvent system. This resulted in 0.45 g (65%) of 8-bromo-2-methyl-1,2,3,4-tetrahydroisoquinoline as light yellow oil.

reactant | 2-methyl-1,2,3,4-tetrahydroisoquinolin-8-amine | 3.08 mmol, 500 mg | CN1CC2=C(C=CC=C2CC1)N | C10H14N2
reactant | HBr | 5 mL | Br | BrH
reactant | NaNO2 | 3.33 mmol, 230 mg | N(=O)[O-].[Na+]
reactant | NaOH | [OH-].[Na+]
solvent | H2O | 5 mL | O | H2O
solvent | HBr H2O | 3 mol/L, 10 mL | Br.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 8-bromo-2-methyl-1,2,3,4-tetrahydroisoquinoline | BrC=1C=CC=C2CCN(CC12)C | C10H12BrN
